US05476846
a) Ethyl 4-[(2-hydroxyiminocyclopentyl)methyl]benzene acetate
Another method is also possible: a mixture of 5.8 g of 4-[(2-hydroxyiminocyclopentyl)methyl]-benzeneacetic acid, 4.1 ml of ethanol 98° and 2 drops of concentrated H2SO4 in 20 ml of toluene is refluxed for 6 hours, in a reactor above which there is a Dean-Stark separator. After cooling, the toluene is washed with a solution of NaHCO3, then with H2O. The organic phase is dried over Na2SO4 and is concentrated. The product obtained is in the form of a yellow oil.

reactant | 4-[(2-hydroxyiminocyclopentyl)methyl]-benzeneacetic acid | 5.8 g | ON=C1C(CCC1)CC1=CC=C(C=C1)CC(=O)O | C14H17NO3
reactant | ethanol | 4.1 ml | C(C)O | C2H6O
catalyst | H2SO4 | 2 drops | OS(=O)(=O)O | H2O4S
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 4-[(2-hydroxyiminocyclopentyl)methyl]benzene acetate | ON=C1C(CCC1)CC1=CC=C(C=C1)CC(=O)OCC | C16H21NO3
